US06300334B1
f) 1-{[1,2,3,4-Tetrahydro-6-(hydroxymethyl)-3-methyl-1-(2-methylpropyl)-2,4-dioxothieno[2,3-d]pyrimidin-5-yl]carbonyl}pyrrolidine
A solution of lithium diisopropylamide (2.50 mmol) in anhydrous tetrahydrofuran (5 ml) was added dropwise to a stirred solution of 1-{[1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxothieno[2,3-d]pyrimidin-5-yl]carbonyl}pyrrolidine (0.42 g) in anhydrous tetrahydrofuran (10 ml) at −78° C. under nitrogen. After 10 minutes, anhydrous dimethylformamide (0.29 ml) was added. After a further 2 hours at −78° C., saturated aqueous sodium bicarbonate solution was added and the mixture was warmed to room temperature and then extracted with ethyl acetate (3×20 ml). The organic extracts were dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was redissolved in methanol/acetic acid (10:1, 11 ml) and sodium borohydride (1 g) was added portionwise over 1 hour with stirring. After a further 1 hour, water (50 ml) was added, the. mixture was neutralised with sodium bicarbonate and extracted with ethyl acetate (4×25 ml). The combined organic extracts were dried over anhydrous magnesium sulfate and filtered through a silica pad which was washed with ethyl acetate/methanol (19:1). The filtrate was evaporated and the residue was purified by normal-phase preparative HPLC with gradient dichloromethane/ethanol elution to give the subtitle compound (0.22 g) as a solid.

reactant | lithium diisopropylamide | 2.50 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-{[1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxothieno[2,3-d]pyrimidin-5-yl]carbonyl}pyrrolidine | 0.42 g | CN1C(N(C2=C(C1=O)C(=CS2)C(=O)N2CCCC2)CC(C)C)=O | C16H21N3O3S
reactant | dimethylformamide | 0.29 ml | CN(C=O)C | C3H7NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-{[1,2,3,4-Tetrahydro-6-(hydroxymethyl)-3-methyl-1-(2-methylpropyl)-2,4-dioxothieno[2,3-d]pyrimidin-5-yl]carbonyl}pyrrolidine | 0.22 g | OCC1=C(C2=C(N(C(N(C2=O)C)=O)CC(C)C)S1)C(=O)N1CCCC1 | C17H23N3O4S
